US08232403B2
To a mixture of 5-[N-(cyclopentylmethyl)-N-ethylamino]-1-methyl-1H-pyrrolo[3,2-b]pyridine-6-carbonitrile (105 mg, 0.37 mmol) in DMF (2 mL) is added N-bromosuccinimide (NBS, 66 mg, 0.37 mmol) at 0° C. After stirring for 30 min, H2O is added, and the reaction mixture is extracted with EtOAc. The organic layer is dried over sodium sulfate, concentrated and purified by silica-gel column chromatography to give 3-bromo-5-[N-(cyclopentylmethyl)-N-ethylamino]-1-methyl-1H-pyrrolo[3,2-b]pyridine-6-carbonitrile as a yellow solid.

reactant | 5-[N-(cyclopentylmethyl)-N-ethylamino]-1-methyl-1H-pyrrolo[3,2-b]pyridine-6-carbonitrile | 0.37 mmol, 105 mg | C1(CCCC1)CN(CC)C1=C(C=C2C(=N1)C=CN2C)C#N | C17H22N4
reactant | N-bromosuccinimide | 0.37 mmol, 66 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | H2O | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-bromo-5-[N-(cyclopentylmethyl)-N-ethylamino]-1-methyl-1H-pyrrolo[3,2-b]pyridine-6-carbonitrile | BrC1=CN(C=2C1=NC(=C(C2)C#N)N(CC)CC2CCCC2)C | C17H21BrN4
